US09416138B2
1-Cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanol
Dissolve 1-cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanone (1.2 g, 5.6 mmol), MeOH (20 mL) and sodium tetrahydroborate (310 mg, 8.19 mmol). Stir at ambient temperature for 1 hour. Concentrate under reduced pressure. Add water (30 mL) and extract with EtOAc (3×). Combine the extracts; wash with brine; and dry over MgSO4. Filter; collect the filtrate; and remove the solvents under reduced pressure to give the title compound as a colorless oil (1.2 g, 99%). MS (m/z): 199 (M-H2O+1).

reactant | 1-cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanone | 5.6 mmol, 1.2 g | C1(CC1)C(COCC1OC(OC1)(C)C)=O | C11H18O4
reactant | sodium tetrahydroborate | 8.19 mmol, 310 mg | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 1-Cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanol | 1.2 g, 99% | C1(CC1)C(COCC1OC(OC1)(C)C)O | C11H20O4
